reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([N:3]1[C:4]([H:13])([H:14])[C-:5]=[N+:6]=[C:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([n:3]1[c:4]([H:13])[c:5]([H:14])[n:6][c:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],9.411492452571508
[C:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:6][C:5](=[C:3]=[O:4])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],101.870302066043
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]2([C:5]([H:14])([H:15])[O:6]2)[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C:5]([H:14])([H:15])[O+:6]=[C-:4][C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],92.582365412612
[C:1]([N:2]([C:3](=[O:4])[C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[O+:6]=[C-:5][H:11])[H:10])([H:7])([H:8])[H:9],81.0769356972044
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]#[N:7])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:14].[C:2]([C:3](=[O:4])[H:13])([C:5]([C:6]#[N:7])([H:15])[H:16])([H:11])[H:12],103.637755937654
[C:1]([C:2]([H:10])([H:11])[H:16])([H:7])([H:8])[H:9].[C:3]1([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([O:6][H:18])[H:17]>>[C:1]([C:2]([C:3]([C:4]([C:5]([O:6][H:18])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],92.1535529068692
[C:1]([C:2](=[C:3])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],8.752203815189183
[C-:1]([N+:2]([C:3](=[O:4])[O:5][C:6]([H:11])([H:12])[H:13])([H:8])[H:10])([H:7])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[O:5][C:6]([H:11])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],13.11925890115451
[C:1](/[C:2](=[C:4](\[C:5]([H:13])([H:14])[H:15])[O:6][H:16])[H:10])([H:7])([H:8])[H:9].[O:3]([H:11])[H:12]>>[C:1]([C@@:2]([O:3][H:11])([C@@:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:12])[H:10])([H:7])([H:8])[H:9],65.62297598839541
[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:6]=[C:7]([N:5]=[C:4]=[C:3]([H:12])[H:13])[H:14])[H:11])([H:8])([H:9])[H:10],55.200417842523095
[O:1]([C:2]([C:3]([O+:4]=[C-:5][O:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],30.891307793587195
[C:1]([C:2]([C-:3]=[O+:4][C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],27.55840774054809
[C:1]([C:2]#[C:3][C:4](=[O:5])[C:6]#[C:7][H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]=[C:4]=[O:5])[C:6]#[C:7][H:11])([H:8])([H:9])[H:10],77.32425768013941
[C:1]([C@@:2]([O:3][H:11])([C@@:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[C:2]([O:3][H:11])=[C:4](/[O:6][H:16])[H:12])([H:7])([H:8])[H:9].[C:5]([H:10])([H:13])([H:14])[H:15],110.674461917534
[O:1]([C:2]([O:6][C:5](=[O+:4][C-:3]([H:10])[H:11])[H:12])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],16.73358336798148
[C:1]1([H:7])([H:9])[C:2]([H:10])([H:11])[C:3][C@@:4]1([C:5](=[O:6])[H:12])[H:8]>>[C:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],32.87269208889468
[C:1]([N:2]([C:3]1=[N:4][N+:5]([H:12])([H:13])[C-:6]=[C:7]1[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10],17.379607652181292
[C:1]([C@:2]([C:3](=[O:4])[H:12])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9].[H:11][H:13]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],85.09369891855701
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([H:15])([H:16])[H:17])([C:6]([H:18])([H:19])[H:20])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([C:5]([H:15])([H:16])[H:17])([C:6]([H:18])([H:19])[H:20])[H:14])([H:7])[H:8].[H:9][H:10],108.59264239893801
[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8]>>[O:1]1[C@:2]2([H:8])[C@@:3]1([H:9])[N+:5]([C-:4]([H:10])[H:11])=[C:6]([H:12])[O:7]2,90.91884843396099
[C:1]([O+:5]=[C:4]([N:3]([C-:2]([H:9])[H:10])[H:11])[H:12])([H:6])([H:7])[H:8]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[H:12])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8],30.36121443178709
[C:1]([C:2]/[C:3](=[C:4](\[C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])[H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],20.415481814963684
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8]>>[C-:6]#[O+:7].[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][H:13])[H:12])[H:8],68.1377094095655
[C:1]([C:2]([C:3](=[C:4]=[C:5]([H:12])[H:13])[O:6][H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[C:4][C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],70.60875470146968
